US04945098
1-Tridecylaminocarbonyloxy-3-(6-bromohexanoyloxy)-2-methylenepropane
3-(6-Bromohexanoyloxy)-2-methylenepropan-1-ol (from Preparation 44) (0.58 g), tridecyl isocyanate (0.55 g) and 4-dimethylaminopyridine (0.05 g) were mixed in methylene chloride (3 ml). After stirring for 23 hours at 22° C. the mixture was filtered, and the filtrate was purified through a column of silica gel 60 (70-230 mesh, 4 g) eluting with ether/chloroform 1:1. Further purification was achieved by chromatography on Waters PrepLC®/System 500A using a prepPAK®-500/SILICA cartridge with ether/chloroform/pentane 1:1:4 as eluent.

reactant | 3-(6-Bromohexanoyloxy)-2-methylenepropan-1-ol | 0.58 g | BrCCCCCC(=O)OCC(CO)=C | C10H17BrO3
reactant | tridecyl isocyanate | 0.55 g | C(CCCCCCCCCCCC)N=C=O | C14H27NO
catalyst | 4-dimethylaminopyridine | 0.05 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 1-Tridecylaminocarbonyloxy-3-(6-bromohexanoyloxy)-2-methylenepropane | C(CCCCCCCCCCCC)NC(=O)OCC(COC(CCCCCBr)=O)=C | C24H44BrNO4
